US04916135
N-(4-Quinolinyl)-9H-carbazol-9-amine hydrochloride
A solution of 9H-carbazol-9-amine (11 g, as an unquantified mixture with carbazole) and 4-chloroquinoline (10 g) in 100 ml isopropanol acidified with ether/HCl was refluxed for seven hours, and thereafter cooled, stirred with water, basified with sodium carbonate and extracted with ethyl acetate. The organic extract was washed successively with water and saturated sodium chloride solution, dried (anhy. MgSO4), filtered and concentrated to 20 g solid. This material was converted to the hydrochloride salt in methanol/ether to give 6 g solid, m.p. >260°. Three grams were recrystallized from methanol/ether to give 2.6 g white needles, dec. 300°-302°.

reactant | 9H-carbazol-9-amine | C1=CC=CC=2C3=CC=CC=C3N(C12)N | C12H10N2
reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 4-chloroquinoline | 10 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | ether HCl | CCOCC.Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | N-(4-Quinolinyl)-9H-carbazol-9-amine hydrochloride | 6 g | Cl.N1=CC=C(C2=CC=CC=C12)NN1C2=CC=CC=C2C=2C=CC=CC12 | InChI=1S/C21H15N3.ClH/c1-4-10-18-17(9-1)19(13-14-22-18)23-24-20-11-5-2-7-15(20)16-8-3-6-12-21(16)24;/h1-14H,(H,22,23);1H
